US07728025B2
4-(4-Fluoro-phenoxy)-2-pyridin-2-yl-6-(pyridin-3-yloxy)-1H-benzimidazole
18.6 mg of pyrazine-2-carboxylic acid and 57.5 mg of 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide hydrochloride were added to a pyridine (2 ml) solution of 46.7 mg of 3-(4-fluorophenoxy)-5-(pyridin-3-yloxy)-benzene-1,2-diamine produced in the same manner as in Example 67 but using 4-fluorophenol and 3-hydroxypyridine, and the reaction liquid was stirred overnight, and then pyridine was evaporated away under reduced pressure. The residue was diluted with ethyl acetate, washed with water, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure to obtain a mixture of amides as a yellow oily substance. The resulting mixture of amides was dissolved in 3 ml of toluene, and 28 mg of p-toluenesulfonic acid monohydrate was added to it, and the reaction liquid was stirred overnight at 120° C. The reaction liquid was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=20/1) to obtain the entitled compound as a yellow solid.

reactant | pyrazine-2-carboxylic acid | 18.6 mg | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide hydrochloride | 57.5 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-(4-fluorophenoxy)-5-(pyridin-3-yloxy)-benzene-1,2-diamine | 46.7 mg | FC1=CC=C(OC2=C(C(=CC(=C2)OC=2C=NC=CC2)N)N)C=C1 | C17H14FN3O2
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
reactant | p-toluenesulfonic acid monohydrate | 28 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-Fluoro-phenoxy)-2-pyridin-2-yl-6-(pyridin-3-yloxy)-1H-benzimidazole | FC1=CC=C(OC2=CC(=CC=3NC(=NC32)C3=NC=CC=C3)OC=3C=NC=CC3)C=C1 | C23H15FN4O2
